US08647753B2
5 g of 1-naphthyl lithium was dissolved in Et2O, and the resulting solution was gradually added dropwise to a solution containing 5 g of 2,6-dibromoanthraquinone dissolved in Et2O. This reaction was carried out on a dry ice bath. Then, the temperature of the reaction material was elevated to room temperature, thereby obtaining an intermediate product. The obtained intermediate product was filtered, thereby obtaining white solids. The white solids thus obtained were dissolved in 100 mL of AcOH, followed by addition of KI and NaH2PO2 and the mixture was stirred at 130° C. for 24 hours. When the reaction was complete, the reaction material was filtered with addition of water. The filtrate was recrystallized from MC and MeOH, thereby obtaining 4 g of 2,6-dibromo-9,10-di-1-naphthylanthracene.

reactant | 1-naphthyl lithium | 5 g | C1(=CC=CC2=CC=CC=C12)[Li]
reactant | 2,6-dibromoanthraquinone | 5 g | BrC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)Br)=O | C14H6Br2O2
solvent | Et2O | CCOCC | C4H10O
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 2,6-dibromo-9,10-di-1-naphthylanthracene | 4 g | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C1=CC=CC2=CC=CC=C12)Br)C1=CC=CC2=CC=CC=C12 | C34H20Br2
